US08486950B2
2,4,6-trichloro-N-(2-(cyclopropanecarboxamido)-5-fluoropyridin-4-yl)benzamide
To a microwave tube was added 2,4,6-trichloro-N-(2-chloro-5-fluoropyridin-4-yl)benzamide (71 mg, 0.20 mmol), cyclopropanecarboxamide (42.8 mg, 0.50 mmol), Pd2(dba)3 (18 mg, 0.020 mmol), XantPhos (14 mg, 0.025 mmol), Cs2CO3 (197 mg, 0.60 mmol) and dioxane (1.5 mL). The mixture was degassed with N2 for 2 min. The resulting mixture was irradiated in a microwave reactor at 140° C. for 35 min and then cooled to room temperature. The mixture was filtered through Celite and concentrated under reduced pressure. The residue was purified by prep-HPLC (Gilson GX 281, Shim-pack PRC-ODS 250 mm×20 mm×2, gradient: CH3CN/10 mm/L NH4HCO3, 17 min) to give the desired product (7.5 mg, yield: 9.2%). 1H NMR (DMSO-d6, 400 MHz): δ 11.08 (s, 1H), 10.83 (d, 1H), 9.00 (s, 1H), 8.32 (s, 1H), 7.82 (s, 2H), 1.98 (d, J=4.6 Hz, 1H), 0.82 (t, J=6.1 Hz, 4H). LCMS (ESI) m/z: 402.0 [M+H+].

reactant | 2,4,6-trichloro-N-(2-chloro-5-fluoropyridin-4-yl)benzamide | 0.20 mmol, 71 mg | ClC1=C(C(=O)NC2=CC(=NC=C2F)Cl)C(=CC(=C1)Cl)Cl | C12H5Cl4FN2O
reactant | cyclopropanecarboxamide | 0.50 mmol, 42.8 mg | C1(CC1)C(=O)N | C4H7NO
reactant | XantPhos | 0.025 mmol, 14 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 0.60 mmol, 197 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.020 mmol, 18 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 2,4,6-trichloro-N-(2-(cyclopropanecarboxamido)-5-fluoropyridin-4-yl)benzamide | 7.5 mg, yield: 9.2% | ClC1=C(C(=O)NC2=CC(=NC=C2F)NC(=O)C2CC2)C(=CC(=C1)Cl)Cl | C16H11Cl3FN3O2
